US08497271B2
Part E. (R)-2-Amino-2-[4-(2-methyl-pentyloxy)-phenyl]-ethanol HCl
To a solution of {(R)-2-Hydroxy-1-[4-(2-methyl-pentyloxy)-phenyl]-ethyl}-carbamic acid t-butyl ester (0.70 g 2.08 mmol), in dichloromethane (10 ml) in an ice bath was added 4 M HCl in 1,4-dioxane (10 ml). The final mixture was then stirred at room temperature for 1.5 hrs. The excessive solvent was removed in vacuum to give a white solid, which was used directly for next step.

reactant | {(R)-2-Hydroxy-1-[4-(2-methyl-pentyloxy)-phenyl]-ethyl}-carbamic acid t-butyl ester | 2.08 mmol, 0.70 g | C(C)(C)(C)OC(N[C@@H](CO)C1=CC=C(C=C1)OCC(CCC)C)=O | C19H31NO4
reactant | HCl | 4 M | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (R)-2-Amino-2-[4-(2-methyl-pentyloxy)-phenyl]-ethanol HCl | Cl.N[C@@H](CO)C1=CC=C(C=C1)OCC(CCC)C | InChI=1S/C14H23NO2.ClH/c1-3-4-11(2)10-17-13-7-5-12(6-8-13)14(15)9-16;/h5-8,11,14,16H,3-4,9-10,15H2,1-2H3;1H/t11?,14-;/m0./s1
